simulator lang=spectre
global 0

ahdl_include "./dut/clocked_mux4_sampler.va"

Vclks (clks 0) vsource type=pwl wave=[0 0.9 1n 0.9 1.05n 0 1.5n 0 1.55n 0.9 3n 0.9 3.05n 0 3.5n 0 3.55n 0.9 5n 0.9 5.05n 0 5.5n 0 5.55n 0.9 7n 0.9 7.05n 0 7.5n 0 7.55n 0.9 9n 0.9 9.05n 0 9.5n 0 9.55n 0.9]
Vdsel0 (dsel0 0) vsource type=pwl wave=[0 0.9 2.8n 0.9 2.9n 0 8.8n 0 8.9n 0.9]
Vdsel1 (dsel1 0) vsource type=pwl wave=[0 0 2.8n 0 2.9n 0.9]
Vupdate (update 0) vsource type=pwl wave=[0 0.9 1.5n 0.9 1.6n 0 4.8n 0 4.9n 0.9 5.5n 0.9 5.6n 0 8.8n 0 8.9n 0.9 9.5n 0.9 9.6n 0]
Vrst (rst 0) vsource type=pwl wave=[0 0.9 0.7n 0.9 0.8n 0 6.6n 0 6.7n 0.9 7.3n 0.9 7.4n 0]
Vdin0 (din0 0) vsource dc=0.12
Vdin1 (din1 0) vsource dc=0.34
Vdin2 (din2 0) vsource dc=0.61
Vdin3 (din3 0) vsource dc=0.83

XDUT (dsel0 dsel1 din0 din1 din2 din3 update rst clks dout) clocked_mux4_sampler


simulatorOptions options evas_profile=balanced

tran tran stop=10n maxstep=20p
save clks din0 din1 din2 din3 dout dsel0 dsel1 rst update
